US05744426
4-Chloro-3-(2,4-dichloro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole
Analogously to Example 8, 35 g (114 mmol) of 3-(2,4-dichloro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole were reacted with 16.9 g (125 mmol) of sulfuryl chloride. Yield: 30.8 g; 1H-NMR (270 MHz, in CDCl3): δ [ppm]=7.49 (s,1H), 7.30 (s,1H), 6.74 (t,1H), 3.85 (s,3H), 2.39 (s,3H).

reactant | 3-(2,4-dichloro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 114 mmol, 35 g | ClC1=C(C=C(C(=C1)Cl)C)C1=NN(C(=C1)OC(F)F)C | C12H10Cl2F2N2O
reactant | sulfuryl chloride | 125 mmol, 16.9 g | S(=O)(=O)(Cl)Cl | Cl2O2S
product | 4-Chloro-3-(2,4-dichloro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=C(C=C(C(=C1)C)Cl)Cl | C12H9Cl3F2N2O
